US08754100B2
Synthesis of methyl 2-fluoro-5-(4-oxopiperidin-1-yl)benzoate
Potassium carbonate (149 mg) and 1-benzyl-1-methyl-4-oxopiperidinium iodide (2.87 g) were sequentially added to a solution of methyl 5-amino-2-fluorobenzoate (1.22 g) obtained in Preparation Example 6-1 in a mixed solvent of ethanol 10 ml) and water (5 ml). The reaction mixture was refluxed for 2.5 hours. The mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with brine and dried over anhydrous sodium sulfate. The filtrate was concentrated under reduced pressure and the residue was purified by silica gel column chromatography to obtain the title compound (1.22 g).

reactant | Potassium carbonate | 149 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-benzyl-1-methyl-4-oxopiperidinium iodide | 2.87 g | [I-].C(C1=CC=CC=C1)[N+]1(CCC(CC1)=O)C
reactant | methyl 5-amino-2-fluorobenzoate | 1.22 g | NC=1C=CC(=C(C(=O)OC)C1)F | C8H8FNO2
reactant | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | O | H2O
solvent | water | 5 ml | O | H2O
product | methyl 2-fluoro-5-(4-oxopiperidin-1-yl)benzoate | 1.22 g | FC1=C(C(=O)OC)C=C(C=C1)N1CCC(CC1)=O | C13H14FNO3
